US09126931B2
8-((R)-2,3-Dihydroxy-propoxy)-6,6-dimethyl-3-methylsulfanyl-5,6-dihydro-benzo[b]carbazol-11-one
3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (47.3 mg, 0.101 mmol), sodium methanethiolate (34.6 mg, 0.493 mmol), Pd2(dba)3 (13.1 mg, 0.0413 mmol), and Xantphos (17.9 mg, 0.0309 mmol) were dissolved in DMA (0.5 ml) and subjected to microwave irradiation at 200° C. for 30 min under nitrogen atmosphere. The resultant was partitioned between aqueous solution of potassium dihydrophosphoric acid and ethyl acetate. The organic layer was washed with saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by thin layer chromatography (ethyl acetate/DCM). The resulting solid was dissolved in THF (0.23 ml) and MeOH (0.06 ml), and then added with 0.5 M sulfuric acid (0.12 ml). The resulting mixture was stirred at 60° C. for 2 hrs. The reaction solution was diluted with diethyl ether and neutralized with sodium hydrocarbonate (15.5 mg, 0.185 mmol). Thereafter, the solution was partitioned between brine and ethyl acetate. The organic layer was concentrated under reduced pressure. The resulting residues were added with diethyl ether. The precipitated solid was filtered to obtain the title compound as a white solid (15.8 mg, 39%).

reactant | 3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.101 mmol, 47.3 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H24BrNO4
reactant | sodium methanethiolate | 0.493 mmol, 34.6 mg | C[S-].[Na+]
reactant | Xantphos | 0.0309 mmol, 17.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium hydrocarbonate | 0.185 mmol, 15.5 mg | C(=O)(O)[O-].[Na+]
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd2(dba)3 | 0.0413 mmol, 13.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-((R)-2,3-Dihydroxy-propoxy)-6,6-dimethyl-3-methylsulfanyl-5,6-dihydro-benzo[b]carbazol-11-one | 15.8 mg, 39% | O[C@@H](COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)SC)(C)C)C1)CO | C22H23NO4S
